US07435735B2
Step 5: tert-Butyl (1-{[(bromoacetyl)(2,4-dimethoxybenzyl)amino]-methyl}cyclopentyl)carbamate
To a solution of tert-butyl 1-{[(2,4-dimethoxybenzyl)amino]methyl}cyclopentyl-carbamate (3.20 g, 8.78 mmol) in anhydrous THF (25 mL) was added Et3N (1.35 mL, 9.65 mmol). The solution was cooled to 0° C., treated with bromoacetyl bromide (0.84 mL, 9.65 mmol), and stirred for 3 h. The reaction was poured into ice water and extracted three times into Et2O. The combined organics were dried over Na2SO4, filtered, and concentrated in vacuo. The resulting crude material was subjected to column chromatography eluting with a gradient of 0-100% EtOAc/hexanes. Collection and concentration of the appropriate fractions afforded the product.

reactant | tert-butyl 1-{[(2,4-dimethoxybenzyl)amino]methyl}cyclopentyl-carbamate | 8.78 mmol, 3.20 g | COC1=C(CNCC2(CCCC2)NC(OC(C)(C)C)=O)C=CC(=C1)OC | C20H32N2O4
reactant | Et3N | 9.65 mmol, 1.35 mL | CCN(CC)CC | C6H15N
reactant | bromoacetyl bromide | 9.65 mmol, 0.84 mL | BrCC(=O)Br | C2H2Br2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | tert-Butyl (1-{[(bromoacetyl)(2,4-dimethoxybenzyl)amino]-methyl}cyclopentyl)carbamate | BrCC(=O)N(CC1=C(C=C(C=C1)OC)OC)CC1(CCCC1)NC(OC(C)(C)C)=O | C22H33BrN2O5
